US07022707B2
2-Chloro-6-fluoro-4-(3-methoxy-propoxy)-benzylalcohol:
This compound was prepared from 3-chloro-5-fluoro-4-hydroxymethyl-phenol and toluene-4-sulfonic acid 3-methoxy-propyl ester according to the procedure described in Example 179 to give the product as a yellowish oil (382 mg, 90%); MS (EI): 248.1 (M)+.

reactant | 3-chloro-5-fluoro-4-hydroxymethyl-phenol | ClC=1C=C(C=C(C1CO)F)O | C7H6ClFO2
reactant | toluene-4-sulfonic acid 3-methoxy-propyl ester | COCCCOS(=O)(=O)C1=CC=C(C=C1)C | C11H16O4S
product | 2-Chloro-6-fluoro-4-(3-methoxy-propoxy)-benzylalcohol | 382 mg, 90% | ClC1=C(CO)C(=CC(=C1)OCCCOC)F | C11H14ClFO3
